2180-11-02 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2180-11-1**] 10:30 AM
 EKG - At [**2180-11-1**] 09:00 PM
   EKG w/ inc in Seroquil dose
   Extubated, did well from resp status all day after extubation.
   Severely agitated for many hours despite seroquel 75mg, wife stated
   patient has had paradoxical response to haldol in the past, given
   zyprexa SL with good result
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2180-10-31**] 08:30 AM
   Ceftriaxone - [**2180-10-31**] 12:21 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-2**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 63 (52 - 114) bpm
   BP: 139/43(64) {98/29(46) - 140/77(89)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    779 mL
                                                                     30 mL
   PO:
                                                                    360 mL
                                                                     30 mL
   TF:
                                                                     94 mL
   IVF:
                                                                    295 mL
   Blood products:
   Total out:
                                                                  1,753 mL
                                                                    530 mL
   Urine:
                                                                  1,753 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -974 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 751 (751 - 751) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.45/45/105 @ 3AM
   Ve: 6.6 L/min
   Physical Examination
   Gen: Extubated, follows commands, very sleepy
   HEENT: pupils pinpoint
   Neck: scar from prior trach site
   CV: RRR, II/VI SM loudest at apex, JVP elevated to approx 12cm
   Resp: left sided crackles
   Abd: soft, NT/ND NABS, non-tender RLQ - transplanted kidney, scar from
   prior PEG placement
   Ext: L femoral line, trace LE edema, no sacral edema
   Labs / Radiology
   192 K/uL
   11.2 g/dL
   203 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.0 mEq/L
   30 mg/dL
   105 mEq/L
   138 mEq/L
   35.9 %
   12.4 K/uL
        [image002.jpg]
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   More recent lab data reviewed
                             [**2180-10-31**]  12:10 PM
                             [**2180-10-31**]  12:24 PM
                             [**2180-11-1**]  02:50 AM
                             [**2180-11-1**]  03:09 AM
   WBC
   6.5
   12.4
   Hct
   36.3
   35.9
   Plt
   186
   192
   Cr
   1.0
   1.1
   TropT
   0.02
   <0.01
   TCO2
   28
   29
   Glucose
   361
   203
   Other labs: PT / PTT / INR:13.3/31.3/1.1
   CK / CKMB / Troponin-T:23//<0.01
   Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.9 %, Mono:0.8 %, Eos:0.0
   %
   Lactic Acid:0.9 mmol/L,
   Tacro 2.8
   Imaging: Echo: Focused views. Left ventricular wall thickness, cavity
   size, and overall LV systolic function appear normal (>55%). Regional
   LV systolic dysfunction cannot be excluded on the basis of this study.
   Right ventricular chamber size and free wall motion are normal. Mitral
   regurgitation is present but cannot be quantified. There is a small
   pericardial effusion. There are no echocardiographic signs of
   tamponade.
   CXR: lungs clear
   Microbiology: Urine, Blood (2), Respiratory cultures with no growth.
   Legionella, PCP negative
   Assessment and Plan
   61 yo w/h/o DM1, s/p cadaveric kidney transplant([**2175**]), h/o CVA and
   chronic aspiration with recent admission to MICU in [**8-15**] for aspiration
   PNA now admitted to MICU with CHF exacerbation leading to respiratory
   failure and intubation.  TTE was a limited study, and MR could be
   exacerbating [**Last Name 1588**] problem.  However, no evidence of worsening by
   Echo
   .
   # Hypoxic Respiratory Failure CHF. Likely CHF clinically.  No evidence
   of infection by sputum, fever, or WBC and bronch appearance c/w
   pulmonary edema.  Extubated.
   - will decrease HCTZ to 12.5 daily, goal of even fluids
   .
   # CKD s/p cadaveric renal transplant
 Creat stable. Renal following.
   -    renal recs
   -    Prednisone 4 mg daily
   -    tacrolimus and cell-cept dosing per renal,
   -    needs tacro level checked on morning of [**11-3**]
   -    cont bactrim
   .
   # Hypertension: BP meds were held for hypotension.  In discussion with
   renal will add back ACE first and then home beta blocker as needed.
   .
   # DM1: Continue home regimen of NPH
   -          insulin sliding scale..
   .
   # CAD s/p CABG:  stable
   - cont ASA 81mg and pravastatin
   .
   # FEN: Low-salt, diabetic diet as tolerated
   .
   # Access: L femoral line placed [**10-31**] in ED
 d/c today, PIV
   .
   # PPx: heparin SC, bowel regimen
   .
   # Code: FULL
   .
   # Dispo: to floor for BP and CHF management.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-10-31**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: